US04863959
To a stirred mixture of 11.6 of 2,5-difluoro-3-(1-hydroxyethyl)-benzonitrile and 290 mL of acetone is added dropwise over 1 hour 90.5 mL of Kilianis' chromic acid (Fieser and Fieser "Reagents for Organic Synthesis" Vol I p 144) at a temperature of 23°-27°. The mixture is stirred 3.5 hours at 25° C. then poured onto 1 L of ice/H2O containing 20 g of Na2S2O5 and extracted with 4×250 mL of CH2Cl2. The CH2Cl2 extracts are washed with H2O, saturated NaHCO3, H2O (250 mL each) and then evaporated in vacuo. The orange residue is stirred with 10 mL of Et2O and 40 mL of hexane for 16 hours, filtered and washed with 10 mL of hexane to give 6.85 g (59% yield) of 3-acetyl-2,5-difluorobenzonitrile, m.p. 80°-83° C. The mass spectrum has an M+1 ion at 182.

reactant | 2,5-difluoro-3-(1-hydroxyethyl)-benzonitrile | FC1=C(C#N)C=C(C=C1C(C)O)F | C9H7F2NO
reactant | chromic acid | [Cr](=O)(=O)(O)O
solvent | acetone | 290 mL | CC(=O)C | C3H6O
product | 3-acetyl-2,5-difluorobenzonitrile | 6.85 g, 59% yield | C(C)(=O)C=1C(=C(C#N)C=C(C1)F)F | C9H5F2NO
